US07138425B2
a) 2-(5-Nitro-2-(2-methoxyethoxy)phenyl)-5-phenylbenzoxazole
Sodium hydride (30 mg, 1.2 mmol) was added portionwise to a stirred suspension of 2-(2-fluoro-5-nitrophenyl)-5-phenylbenzoxazole (200 mg, 0.6 mmol) in methoxyethanol (2 ml) at 0° C. When gas evolution had visibly ceased the mixture was allowed to warm to room temperature and then heated at 55° C. for 3 h. After being allowed to cool to room temperature the mixture was diluted with water (5 ml) and extracted with EtOAc (3×5 ml). The combined organic extracts were washed with brine (5 ml), dried (Na2SO4) and evaporated under reduced pressure to give the subtitle compound (186 mg, 79%). 1H NMR (DMSO) δ 8.90(d, 1H), 8.45(dd, 1H), 8.10(d, 1H), 7.85(d, 1H), 7.77(m, 3H), 7.52(m, 3H), 7.41(t, 1H), 4.50(t, 2H), 4.84(t, 2H), 3.40(s, 3H).

reactant | Sodium hydride | 1.2 mmol, 30 mg | [H-].[Na+]
reactant | 2-(2-fluoro-5-nitrophenyl)-5-phenylbenzoxazole | 0.6 mmol, 200 mg | FC1=C(C=C(C=C1)[N+](=O)[O-])C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2 | C19H11FN2O3
reactant | water | 5 ml | O | H2O
solvent | methoxyethanol | 2 ml | COC(C)O | C3H8O2
product | 2-(5-Nitro-2-(2-methoxyethoxy)phenyl)-5-phenylbenzoxazole | 186 mg, 79% | [N+](=O)([O-])C=1C=CC(=C(C1)C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2)OCCOC | C22H18N2O5
